US04263299
(f) 1-(4-Chlorobenzyl)-4-[3-(4-hydroxy-3-nitrocoumarin-7-yloxy)propyl]piperazine
Fuming nitric acid (10 ml; d 1.52) was added dropwise over 15 mins to a cold (0° C.) stirred suspension of 1-(4-chlorobenzyl)-4-[3-(4-hydroxycoumarin-7-yloxy)propyl]piperazine (2.0 g) in chloroform (200 ml) and the mixture stirred for a further 1 hour at 0°. The solution which formed precipitated a yellow solid on addition of water which after filtration was washed with ethanol to give 2.62; (95%) of the dinitric acid salt of the title compound of m.p. 142°-144° (dec). νmax (mull) 2700 (br), 1740, 1615, 1525 cm-1. (Found; C, 45.87; H. 4.52; Cl, 5.66; N, 11.36; C23H24ClN3O6 2HNO3 requires; C, 46.05; H, 4.37; Cl, 5.91; N, 11.67%).

reactant | nitric acid | 10 ml | [N+](=O)(O)[O-] | HNO3
reactant | 1-(4-chlorobenzyl)-4-[3-(4-hydroxycoumarin-7-yloxy)propyl]piperazine | 2.0 g | ClC1=CC=C(CN2CCN(CC2)CCCOC2=CC=C3C(=CC(OC3=C2)=O)O)C=C1 | C23H25ClN2O4
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-(4-Chlorobenzyl)-4-[3-(4-hydroxy-3-nitrocoumarin-7-yloxy)propyl]piperazine | ClC1=CC=C(CN2CCN(CC2)CCCOC2=CC=C3C(=C(C(OC3=C2)=O)[N+](=O)[O-])O)C=C1 | C23H24ClN3O6
